US06713474B2
To a solution of 4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidine (2.0 g, 6.6 mmol) in dry DMF (100 ml) under nitrogen at 0° C. was added NaH (0.264 g, 60% dispersion, 6.6 mmol) and the reaction mixture warmed to room temperature and stirred for 1 hr. Tert-butyl 4-[(4-methylphenyl)sulfonyl]oxy-1-piperidinecarboxylate (2.34 g, 6.6 mmol) was added and the resulting solution heated at 95° C. for 72 hr. The reaction was quenched by careful addition of water (150 ml). Extract with EtOAc (3×100 ml) and wash with water (4×100 ml) and brine (2×100 ml). The organic solution was dried (Na2SO4), filtered and evaporated to leave a solid which was adsorbed onto silica and purified by flash silica gel column chromatography using EtOAc then 5% MeOH/EtOAc as eluent to give in F 13-22 tert-butyl4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-1-piperidinecarboxylate (1.0 g, 31%) as a white solid, m.pt. 168.5-169.5° C. Rf in 10% EtOAc/MeOH=0.4. 1H NMR (d6 DMSO, 250 MHz): δ 8.14 (1H, s), 7.38-7.49 (5H, m), 7.07-7.23 (5H, m), 6.14 (2H, bs), 4.76 (1H, m), 4.11 (2H, m), 2.93 (2H, m), 1.92-2.02 (4H, m), 1.43 (9H, s). Mass spec. C28H31O3N5 (485.2430). IR (KBr disc): 3059, 1695, 1588, 1235 cm−1.

reactant | 4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidine | 6.6 mmol, 2.0 g | NC=1C2=C(N=CN1)NC=C2C2=CC=C(C=C2)OC2=CC=CC=C2 | C18H14N4O
reactant | NaH | 6.6 mmol, 0.264 g | [H-].[Na+]
reactant | Tert-butyl 4-[(4-methylphenyl)sulfonyl]oxy-1-piperidinecarboxylate | 6.6 mmol, 2.34 g | CC1=CC=C(C=C1)S(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C17H25NO5S
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | tert-butyl4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-1-piperidinecarboxylate | 1.0 g, 31% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C28H31N5O3
